US04088771
This example illustrates methods according to the invention of preparing the compounds of the invention having dialkoxy or dihydroxy substituents on the phenyl ring. In this example, 50 ml. of isopropanol and 1.25 g. of sodium methoxide is added to a solution containing 3.15 g. of the dihydrochloride salt of β-methylamino-β-(3,5-dimethoxyphenyl)-ethylamine dissolved in 10 ml. of water. The mixture is stirred for 15 minutes and then a solution containing 2.6 g. of 1-mono and 1,3-bis(methoxycarbonyl)-S-methylisothiourea mixture in 40 ml. of chloroform is added and then stirred for about two weeks at room temperature. The mixture is then concentrated by evaporation to dryness and stirred in 100 ml. of aqueous 0.5 Normal hydrochloric acid for one hour. The resulting solution is washed with ethyl ether, then treated with aqueous sodium bicarbonate and filtered. The collected solid is then stirred with distilled water, refiltered, then dried ovenight at 55° C affording 1.68 g. of a crude product which is then purified by recrystallization from 200 ml. of benzene affording 1-methyl-4,5-dihydro-4-(3,5-dimethoxyphenyl)-2-methoxycarbonylaminoimidazole. The corresponding acid addition salts of this compound and others listed hereafter are prepared according to procedures in Examples 1-5, part A.

reactant | sodium methoxide | C[O-].[Na+]
reactant | dihydrochloride | C1(=C(C(=C(C(=C1F)F)F)N)F)N.Cl.Cl
reactant | β-methylamino-β-(3,5-dimethoxyphenyl)-ethylamine | CNC(CN)C1=CC(=CC(=C1)OC)OC | C11H18N2O2
reactant | 1,3-bis(methoxycarbonyl)-S-methylisothiourea | COC(=O)NC(SC)=NC(=O)OC | C6H10N2O4S
solvent | chloroform | C(Cl)(Cl)Cl | CHCl3
solvent | water | O | H2O
solvent | isopropanol | C(C)(C)O | C3H8O
product | 1-methyl-4,5-dihydro-4-(3,5-dimethoxyphenyl)-2-methoxycarbonylaminoimidazole | CN1C(=NC(C1)C1=CC(=CC(=C1)OC)OC)NC(=O)OC | C14H19N3O4
